US05364866
1-[4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]phenylmethanone
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (2.2 g, 10 mmoles), K2CO3 (2.3 g) and 1-[4-(3-bromopropoxy)-3-methoxyphenyl]phenylmethanone (3.47 g, 10 mmoles) in acetonitrile (100 ml) was heated at reflux for 3 hours. At the end of reaction, the acetonitrile was concentrated and the mixture was extracted into dichloromethane (200 ml). The insolubles were filtered off and the solvent was evaporated to an oil. Purification was carried out by flash chromatography over a silica gel column (SiO2, 50 g; eluted with dichloromethane, 600 ml; 1% methanol:dichloromethane, 600 ml; 2% methanol: 98% dichloromethane, 600 ml). The fractions containing the pure product were combined and concentrated to give 4.24 g (87%) of an off-white solid. Recrystallization from ethanol (75 ml) gave 3.9 g of 1-[4-[3-[4-(6-fluoro-1,2-benziosoxazol-3-yl)-1-piperidinyl]propoxy] -3-methoxyphenyl]phenylmethanone as off-white crystals, m.p.=128°-130° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 10 mmoles, 2.2 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 2.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(3-bromopropoxy)-3-methoxyphenyl]phenylmethanone | 10 mmoles, 3.47 g | BrCCCOC1=C(C=C(C=C1)C1(CC=CC=C1)C=O)OC | C17H19BrO3
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-[4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]phenylmethanone | 4.24 g, 87% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=C(C=C2)C2(CC=CC=C2)C=O)OC)C=C1 | C29H31FN2O4
